US07405210B2
Preparation 7: N-tert-Butyloxycarbonyl-(S)-phenylalanine dimethylamide
A solution of dimethylamine hydrochloride (1.45 g, 17.8 mmol) in DMF (46 mL) was cooled to −10° C. and triethylamine (2.7 mL, 19.4 mmol) was added. N-Boc-L-phenylalanine (4.59 g, 17.3 mmol, Aldrich) and HOBt (3.49 g, 26 mmol) were then added and the reaction stirred for 5 min before addition of EDCI (3.33 g, 17.4 mmol). The reaction mixture was left to stir for 16 h then diluted with ethyl acetate (400 mL), washed sequentially with aqueous sodium hydroxide solution (2M, 2×100 mL), hydrochloric acid (2N, 2×100 mL), brine (250 mL) and then dried (MgSO4). Evaporation in vacuo gave the title compound as a pale yellow oil. δH (CDCl3): 1.41 (9H, s), 2.61, 2.85 (6H, 2s), 2.91–2.99 (2H, m), 4.83 (1H, m), 5.40 (1H, br d), 7.18–7.29 (5H, m).

reactant | dimethylamine hydrochloride | 17.8 mmol, 1.45 g | Cl.CNC
reactant | triethylamine | 19.4 mmol, 2.7 mL | C(C)N(CC)CC | C6H15N
reactant | N-Boc-L-phenylalanine | 17.3 mmol, 4.59 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | HOBt | 26 mmol, 3.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 17.4 mmol, 3.33 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 46 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | N-tert-Butyloxycarbonyl-(S)-phenylalanine dimethylamide | CN(C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)C | C16H24N2O3
